US05591762
4'-[[2-n-Propyl-4-methyl-6-(4,5-dimethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 170 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-[N-(1-acetyl-ethyl)-aminocarbonyl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and phosphorus-oxychloride.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-[N-(1-acetyl-ethyl)-aminocarbonyl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C(=O)NC(C)C(C)=O | C34H39N3O4
reactant | phosphorus-oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4'-[[2-n-Propyl-4-methyl-6-(4,5-dimethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2OC(=C(N2)C)C | C30H29N3O3
